US05863947
A stirred mixture of 4-bromo-2-fluorobenzaldehyde (39 g, 192 mmol) and cuprous cyanide (18.9 g, 211 mmol) in dimethylformamide (100 ml) was heated to 150° C. for 12 hours under nitrogen atmosphere. The dark solution was cooled and a solution of ferric chloride (34 g, 211 mmol) in hydrochloric acid (2M, 100 ml) was added, followed by water (100 ml). Solid crystallised from the mixture and was filtered, washed with water and dried at 40° C. in vacuo. Recrystallisation from cyclohexane (500 ml) gave 4-cyano-2-fluorobenzaldehyde (m.p. 79° C.) as yellow needles.

reactant | 4-bromo-2-fluorobenzaldehyde | 192 mmol, 39 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | water | 100 ml | O | H2O
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 2M, 100 ml | Cl | ClH
product | 4-cyano-2-fluorobenzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)F | C8H4FNO
